US08067419B2
N—[(S)-1-Benzyl-2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-N-(4-pentyl-benzyl)-3-(4-trifluoromethyl-phenyl)-acrylamide hydrochloride (2 g, 5.55 mmol) was dissolved in methanol (50 mL), followed by the addition of triethylamine (0.562 g, 5.55 mmol) and 4-n-pentylbenzaldehyde (1.076 g, 6.10 mmol). The mixture was heated to reflux for 5 h, cooled to rt and sodium borohydride (0.6 g, 15.8 mmol) was added in several portions over a period of 60 min. Stirring at rt was continued for 12 h, followed by the addition of water (2 mL). The mixture was concentrated under reduced pressure, to the residue was added water (100 mL) and the product was extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine (100 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude material was purified by column chromatography (silicagel, heptane/EtOAc=1/1) to give 906 mg (32%) of 1-(4-benzyl-piperazin-1-yl)-(S)-2-(4-pentyl-benzylamino)-3-phenyl-propan-1-one. LC-MS: tR=0.77 min; [M+H]+=484.44.

reactant | N—[(S)-1-Benzyl-2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-N-(4-pentyl-benzyl)-3-(4-trifluoromethyl-phenyl)-acrylamide hydrochloride | 5.55 mmol, 2 g | Cl.C(C1=CC=CC=C1)[C@@H](C(=O)N1CCN(CC1)CC1=CC=CC=C1)N(C(C=CC1=CC=C(C=C1)C(F)(F)F)=O)CC1=CC=C(C=C1)CCCCC
reactant | triethylamine | 5.55 mmol, 0.562 g | C(C)N(CC)CC | C6H15N
reactant | 4-n-pentylbenzaldehyde | 6.10 mmol, 1.076 g | C(CCCC)C1=CC=C(C=O)C=C1 | C12H16O
reactant | sodium borohydride | 15.8 mmol, 0.6 g | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 1-(4-benzyl-piperazin-1-yl)-(S)-2-(4-pentyl-benzylamino)-3-phenyl-propan-1-one | 906 mg, 32% | C(C1=CC=CC=C1)N1CCN(CC1)C([C@H](CC1=CC=CC=C1)NCC1=CC=C(C=C1)CCCCC)=O | C32H41N3O
